US04734416
4.4 Grams of 6-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril and 3.4 g of 4-phenylpiperazine are dispersed in 80 ml of isopropanol and reacted at 50°-60° C. for 3 hours under stirring conditions, then 5 ml of concentrated hydrochloric acid are added thereto and concentrated under reduced pressure to dryness. The thus obtained residue is recrystallized from hot water to obtain 6.1 g of 6-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril monohydrochloride.1/2hydrate in the form of colorless needle-like crystals with a melting point of 223°-224° C.

reactant | 6-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | O1C(COC=2C=C3CCC(NC3=CC2)=O)C1 | C12H13NO3
reactant | 4-phenylpiperazine | 3.4 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | 6-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril monohydrochloride | 6.1 g | Cl.OC(COC=1C=C2CCC(NC2=CC1)=O)CN1CCN(CC1)C1=CC=CC=C1 | InChI=1S/C22H27N3O3.ClH/c26-19(15-24-10-12-25(13-11-24)18-4-2-1-3-5-18)16-28-20-7-8-21-17(14-20)6-9-22(27)23-21;/h1-5,7-8,14,19,26H,6,9-13,15-16H2,(H,23,27);1H
